US08222246B2
6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-(2-methoxy-ethyl)-nicotinamide
Trimethylaluminium solution (2 M in toluene, 0.51 mL, 1.00 mmol) was added to a solution of 2-methoxyethylamine (88.0 μL, 1.00 mmol) in dioxane (4 mL). After stirring for 45 min at 50° C. a solution of 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (90.0 mg, 0.25 mmol) in dioxane (4 mL) was added and stirring was continued overnight at 85° C. The dioxane was removed by distillation. The remaining material was purified by chromatography (silica, ethyl acetate) to yield the title compound (16.1 mg, 16%) as a white solid. MS: m/e=400.0 [M−H]−.

reactant | Trimethylaluminium | 1.00 mmol, 2 M, 0.51 mL | C[Al](C)C
reactant | 2-methoxyethylamine | 1.00 mmol, 88.0 μL | COCCN | C3H9NO
reactant | 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.25 mmol, 90.0 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=C(C=C1)F)=O | C18H15FN2O5
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-(2-methoxy-ethyl)-nicotinamide | 16.1 mg, 16% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NCCOC)C=C1)CO | C20H20FN3O5
